US08957203B2
To a solution of (2S)-4-methyloct-7-en-2-yl 4-methylbenzenesulfonate (54 g, 0.182 moles) and N-(diphenylmethylene)glycinate ethyl ester (48.7 g, 0.182 moles) in toluene (500 mL) was added LiHMDS (36.5 g, 0.218 moles, 1 M solution in THF) at 0° C. The reaction mass was allowed to come to room temperature and was then heated at 110° C. for 2 h. The reaction mass was cooled to room temperature, quenched with water and extracted with ethyl acetate (200 mL×3). The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to get crude compound (3R)-ethyl 2-((diphenylmethylene)amino)-3,5-dimethylnon-8-enoate (75 g). The crude compound was taken to the next step without further purification.

reactant | (2S)-4-methyloct-7-en-2-yl 4-methylbenzenesulfonate | 0.182 moles, 54 g | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H](C)CC(CCC=C)C | C16H24O3S
reactant | N-(diphenylmethylene)glycinate ethyl ester | 0.182 moles, 48.7 g | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | LiHMDS | 0.218 moles, 1 M, 36.5 g | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | (3R)-ethyl 2-((diphenylmethylene)amino)-3,5-dimethylnon-8-enoate | 75 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)[C@@H](CC(CCC=C)C)C | C26H33NO2
